US07589076B2
3,4-Dichlorophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate.
3,4-Dichloro-phenol (4.83 g, 29.6 mmol) was added as a solution in THF and dimethylaniline to a mixture of triphosgene (2.849 g, 9.6 mmol) in THF according to general procedure 3. Yield=5.3 g, 57%. m/z MH+=312.14. HPLC rt=12.38 min.

reactant | 3,4-Dichloro-phenol | 29.6 mmol, 4.83 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | triphosgene | 9.6 mmol, 2.849 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | THF | C1CCOC1 | C4H8O
product | 3,4-Dichlorophenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OC1=CC(=C(C=C1)Cl)Cl | C15H15Cl2NO2
